US09029545B2
3-Chloro-N-[3,6-dimethyl-2-(3-pyridinyl)thieno[2,3-b]pyridin-4-yl]benzenesulfonamide
To a stirred solution of 3,6-dimethyl-2-(3-pyridinyl)thieno[2,3-b]pyridin-4-amine (45 mg, 0.176 mmol) (Description 34) in DMF (1.5 mL) was added sodium tert-butoxide (42.3 mg, 0.441 mmol) and 3-chlorobenzenesulfonyl chloride (0.050 mL, 0.352 mmol). The reaction mixture was stirred at RT under nitrogen for 3 h and then diluted with ethyl acetate (20 mL) and water (30 mL). The organic layer was separated and the aqueous layer re-extracted with ethyl acetate (2×15 mL). The combined organic layers were dried over Na2SO4 and concentrated. Purification by chromatography on silica gel, eluting with a gradient of 0-100% ethyl acetate in DCM was followed by further purification by MDAP (acidic conditions), to afford the title compound (17.8 mg). LCMS (A) m/z: 430 [M+1]+, Rt 1.06 min (acidic), Rt 0.86 min (basic).

reactant | 3,6-dimethyl-2-(3-pyridinyl)thieno[2,3-b]pyridin-4-amine | 0.176 mmol, 45 mg | CC1=C(SC=2N=C(C=C(C21)N)C)C=2C=NC=CC2 | C14H13N3S
reactant | sodium tert-butoxide | 0.441 mmol, 42.3 mg | CC(C)([O-])C.[Na+]
reactant | 3-chlorobenzenesulfonyl chloride | 0.352 mmol, 0.050 mL | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 30 mL | O | H2O
product | 3-Chloro-N-[3,6-dimethyl-2-(3-pyridinyl)thieno[2,3-b]pyridin-4-yl]benzenesulfonamide | 17.8 mg | ClC=1C=C(C=CC1)S(=O)(=O)NC1=C2C(=NC(=C1)C)SC(=C2C)C=2C=NC=CC2 | C20H16ClN3O2S2
